US08809376B2
{(S)-6-[(R)-4-(4-Methoxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
Iodomethane (8 μL) is added to a mixture of {(S)-6-[(R)-4-(4-hydroxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester (30 mg), K2CO3 (15 mg), and N,N-dimethylformamide (1 mL) at room temperature. The mixture is stirred at room temperature overnight. The mixture is filtered and then chromatographed (HPLC; acetonitrile/water) to give the title compound. LC (method 6): tR=1.26 min; Mass spectrum (ESI+): m/z=535 [M+Na]+.

reactant | Iodomethane | 8 μL | IC | CH3I
reactant | {(S)-6-[(R)-4-(4-hydroxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | 30 mg | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CC2=CC=C(C=C2)O)=O | C28H25F3O5
reactant | K2CO3 | 15 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | {(S)-6-[(R)-4-(4-Methoxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CC2=CC=C(C=C2)OC)=O | C29H27F3O5
